US08110687B2
To a solution of 1-[3-bromo-5-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole (4.98 g, 15.6 mmol) in THF (75 mL) at −78° C., was added a solution of 2.50M n-butyllithium in hexane dropwise. The reaction mixture was allowed to stir for 30 min and then acetone (1.49 mL, 20.4 mmol) was added dropwise. The reaction mixture was allowed to stir at −78° C. for 30 min, and then allowed to warm to rt. Saturated aq. NH4Cl was added and the mixture was extracted with EtOAc (3×). The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]propan-2-ol (2.29 g, 49.2%). LCMS: (FA) ES+ 298.2.

reactant | 1-[3-bromo-5-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole | 15.6 mmol, 4.98 g | BrC=1C=C(C=C(C1)C(F)(F)F)N1C(=CC=C1C)C | C13H11BrF3N
reactant | n-butyllithium | 2.50M | C(CCC)[Li]
reactant | acetone | 20.4 mmol, 1.49 mL | CC(=O)C | C3H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]propan-2-ol | 2.29 g, 49.2% | CC=1N(C(=CC1)C)C=1C=C(C=C(C1)C(F)(F)F)C(C)(C)O | C16H18F3NO
